US09193707B2
3. Synthesis of ethyl 2-(4-aminophenyl)quinazoline-4-carboxylate
Into a 100-mL 3-necked round-bottom flask purged and maintained with an inert atmosphere of nitrogen, was placed ethyl 2-(4-nitrophenyl)quinazoline-4-carboxylate (1.2 g, 3.71 mmol, 1.00 equiv), water (13 mL), sodium hydroxide (150 mg, 3.75 mmol, 2.00 equiv) and sodium hyposulfite (1.3 g, 2.00 equiv). The resulting solution was stirred for 12 h at 80° C. in an oil bath. The solids were filtered out. The filter cake was washed with 1×50 mL of ethanol. The resulting mixture was concentrated under vacuum. The residue was applied onto a silica gel column with ethyl acetate/petroleum ether (1:5). This resulted in 0.8 g (73%) of ethyl 2-(4-aminophenyl)quinazoline-4-carboxylate as a yellow solid. MS (ESI) m/z 294 ([M+H]+).

reactant | ethyl 2-(4-nitrophenyl)quinazoline-4-carboxylate | 3.71 mmol, 1.2 g, 1.00 equiv | [N+](=O)([O-])C1=CC=C(C=C1)C1=NC2=CC=CC=C2C(=N1)C(=O)OCC | C17H13N3O4
reactant | sodium hydroxide | 3.75 mmol, 150 mg, 2.00 equiv | [OH-].[Na+]
reactant | sodium hyposulfite | 1.3 g, 2.00 equiv | [O-]S(=O)(=S)[O-].[Na+].[Na+]
solvent | water | 13 mL | O | H2O
product | ethyl 2-(4-aminophenyl)quinazoline-4-carboxylate | NC1=CC=C(C=C1)C1=NC2=CC=CC=C2C(=N1)C(=O)OCC | C17H15N3O2
